US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (7.88 mL, 5.52 mmol), 2-chloro-4-(2-chlorophenylthio)pyridine (1.55 g, 6.07 mmol), potassium phosphate (1.29 g, 6.07 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.126 g, 0.138 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.0878 g, 0.152 mmol) were reacted in toluene (8 mL) to afford 4-(2-chlorophenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine (1.54 g, 82.8% yield) as yellow solid. 1H NMR (CDCl3) δ 8.11 (d, 1H), 7.59 (dd, 1H), 7.53 (dd, 1H), 7.38 (dt, 1H), 7.29 (dt, 1H), 6.56 (dd, 1H), 6.48 (d, 1H), 2.23 (s, 3H); Mass spectrum (esi) m/z 334 (100) (M+H).

reactant | 4-methylthiazol-2-amine | 5.52 mmol, 7.88 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(2-chlorophenylthio)pyridine | 6.07 mmol, 1.55 g | ClC1=NC=CC(=C1)SC1=C(C=CC=C1)Cl | C11H7Cl2NS
reactant | potassium phosphate | 6.07 mmol, 1.29 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.138 mmol, 0.126 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.152 mmol, 0.0878 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 4-(2-chlorophenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine | 1.54 g, 82.8% yield | ClC1=C(C=CC=C1)SC1=CC(=NC=C1)NC=1SC=C(N1)C | C15H12ClN3S2
